US04959361
A mixture of 31 g (0.08 mol) of 1,3-dihydro-5-(2-fluoro phenyl)-7-iodo-1,4-benzodiazepin-2(2H)-one [ref. G. F. Field and L. H. Sternbaoh, Swiss patents Nos. 561,706; May 1975; and 562,222; April 1975], 20 g (0.09 mol) of phosphorus pentasulfide, 20 g of sodium bicarbonate and 300 ml of diglyme was stirred and heated to 80°-85° C. for 3 hours. The reaction mixture was then poured onto ice and diluted with water. After stirring for 30 minutes, the solid yellow product was filtered off, washed with water, 2-propanol and little ether. It was sucked dry in the funnel and further dried in vacuum to leave 26 g (80%) of 1,3-dihydro-5-(2-fluorophenyl)-7-iodo-1,4-benzodiazepine-2(2H)-thione which was further transformed as described below. Pure material was obtained by recrystallization from tetrahydrofuran/ethanol and had m.p. 242°-244° C.

reactant | 1,3-dihydro-5-(2-fluoro phenyl)-7-iodo-1,4-benzodiazepin-2(2H)-one | 0.08 mol, 31 g | FC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C=C2)I)=O | C15H10FIN2O
reactant | phosphorus pentasulfide | 0.09 mol, 20 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | sodium bicarbonate | 20 g | C([O-])(O)=O.[Na+]
reactant | diglyme | 300 ml | COCCOCCOC | C6H14O3
solvent | water | O | H2O
product | 1,3-dihydro-5-(2-fluorophenyl)-7-iodo-1,4-benzodiazepine-2(2H)-thione | 26 g, 80% | FC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C=C2)I)=S | C15H10FIN2S
